US07902144B2
1.8 g (4.52 mmol) stearic acid tert-butylcarbazate is dissolved in 3 ml trifluoracetic acid, stirred for 15 min and the solvent is removed under vacuum. The mixture is treated with 30 ml dry ether and the precipitate formed is filtered out and washed twice with 50 ml dry diethyl ether. After drying under high vacuum, 1.03 g stearic acid hydrazide is obtained; Rf=0.66 (ethyl acetate/methanol 1/1)

reactant | stearic acid tert-butylcarbazate | 4.52 mmol, 1.8 g | C(C)(C)(C)OC(NN)=O.C(CCCCCCCCCCCCCCCCC)(=O)O
solvent | trifluoracetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | stearic acid hydrazide | 1.03 g | C(CCCCCCCCCCCCCCCCC)(=O)NN | C18H38N2O
